US04113875
7 g of 2-eicosene are dissolved in 20 g of peracetic acid. The ethylenic function is oxidised into epoxide in the absence of heat. The acetic acid formed is neutralised in 10 ml of water by the addition of 1N NaOH. The aqueous solution thus obtained is extracted with ether. Removal of the ether leaves 6 g of 2,3-epoxy eicosane which is purified in the same way as described above. Mp: 40° C., bp 15 mm Hg : 200°-210° C.

reactant | 2-eicosene | 7 g | CC=CCCCCCCCCCCCCCCCCC | C20H40
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | NaOH | 1N | [OH-].[Na+]
solvent | peracetic acid | 20 g | C(C)(=O)OO | C2H4O3
solvent | water | 10 ml | O | H2O
product | 2,3-epoxy eicosane | 6 g | O1C(C)C1CCCCCCCCCCCCCCCCC | C20H40O
